US06335360B1
5-Chloroindoline-2(R/S)-carboxylic acid methyl ester
This compound was prepared from ethyl 5-chloroindole-2-carboxylate as described in example 1. However this time 5-6 equivalence of magnesium turnings were used instead of 2-3 eq. of magnesium turnings.

reactant | ethyl 5-chloroindole-2-carboxylate | ClC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10ClNO2
reactant | magnesium | [Mg] | Mg
reactant | magnesium | 2-3 eq. | [Mg] | Mg
product | 5-Chloroindoline-2(R/S)-carboxylic acid methyl ester | COC(=O)C1NC2=CC=C(C=C2C1)Cl | C10H10ClNO2
